US05171681
In Example 3, acetone solution of 12-hydroxydodecanoic acid was replaced by 16-hydroxy hexadecanoic acid (100 mg) dissolved in chloroform (10 ml) and reaction time was set for 15 hours. 72 mg of 1,16-hexadecane dicarboxylic acid was produced.

reactant | acetone | CC(=O)C | C3H6O
reactant | 12-hydroxydodecanoic acid | OCCCCCCCCCCCC(=O)O | C12H24O3
reactant | 16-hydroxy hexadecanoic acid | 100 mg | OCCCCCCCCCCCCCCCC(=O)O | C16H32O3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,16-hexadecane dicarboxylic acid | 72 mg | C(CCCCCCCCCCCCCCCC(=O)O)C(=O)O | C18H34O4
